US08383825B2
(S)-Ethyl [S-phenyl-N-(trimethylsilyl)sulfonimidoyl]acetate
To a 100 mL round bottom flask equipped with a magnetic stir-bar and a rubber septum was added a solution of 2,2,6,6-tetra-methylpiperidine (8.91 mL, 52.5 mmol) in anhydrous THF (22 mL). The solution was cooled to 0° C. and was treated with n-BuLi (18 mL, 45 mmol) (2.5 M in hexanes) via a syringe. The resulting solution was stirred for 10 min at 0° C., cooled to −78° C., and treated dropwise with a solution of (S)-trimethyl{[methyl(oxo)phenyl-λ6-sulfanylidene]amino}silane (18.7 mmol) in THF (10 mL). The reaction mixture was stirred at −78° C. for 30 min and then was treated with ethyl chloroformate (5.16 mL, 52.5 mmol) dropwise. The reaction mixture was stirred for an hour and warmed to room temperature. The reaction mixture was treated with saturated aqueous NH4Cl (2.5 mL). The white solid which formed was collected by filtration and discarded. The filtrate was treated with additional saturated aqueous NH4Cl solution and the resulting mixture was stored in a −20° C. fridge for 15 hours. The organic layer was collected and concentrated to give the title compound. This material was used directly in the next step of the synthesis

reactant | 2,2,6,6-tetra-methylpiperidine | 52.5 mmol, 8.91 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | 45 mmol, 2.5 M, 18 mL | [Li]CCCC
reactant | (S)-trimethyl{[methyl(oxo)phenyl-λ6-sulfanylidene]amino}silane | 18.7 mmol | C[Si](N=[S@](C1=CC=CC=C1)(=O)C)(C)C | C10H17NOSSi
reactant | ethyl chloroformate | 52.5 mmol, 5.16 mL | ClC(=O)OCC | C3H5ClO2
reactant | NH4Cl | 2.5 mL | [NH4+].[Cl-]
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-Ethyl [S-phenyl-N-(trimethylsilyl)sulfonimidoyl]acetate | C1(=CC=CC=C1)[S@](=O)(=N[Si](C)(C)C)CC(=O)OCC | C13H21NO3SSi
